Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
seafood / abacavir sulfate / Phenothiazines
 
Attending: ___.
 
Chief Complaint:
C2 HD MTX
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr ___ is a ___ yo patient of Dr. ___ with history of 
HIV
here today for a planned admission for C2 HD MTX for CNS
prophylaxis for DLBCL s/p 6 cycle of da-EPOCH/riuxan.  

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
___ year old male with PMH of HIV, HTN and HLD, who was admitted 
on ___ for left sided chest pain. He reports he had 
been having left sided chest pain since the end of ___. 
He described the pain as achy and thought he had a pulled 
muscle. He has being followed by his pcp who did ___ chest x ray 
which was negative. Pain worsened, he went to the ___ ER 
___ CTA chest and abdomen revealed a 6 cm soft tissue mass 
surrounding the left fourth rib with an associated pathologic 
fracture, 1.2 cm soft tissue nodule abutting the left psoas, an 
expansile mixed lytic and sclerotic T10 lesion, a 2.5 cm 
indeterminate right adrenal nodule, retroperitoneal LAD. 
Possible bone lesions in L 7th rib, R iliac and R acetabulum. He 
then underwent an ___ guided biopsy of this soft tissue mass on 
___, which showed diffuse large B cell lymphoma, CD20+, CD10 
neg, Ki67 80-90%, EBV RNA neg and BCL 6 rearrangement. He denied 
fevers, chills, night sweats or weight loss. LDH was normal at 
presentation. He was seen locally by Dr. ___ at ___ 
___. Patient was admitted on ___ to initiate da-EPOCH 
cycle 1.

Treatment history: 
- ___: IT MTX
- ___: C1D1 da-EPOCH, dose level 1
- ___: C1D1 Rituxan
- ___: C2D1 da-R-EPOCH, dose level 1
- ___: C3D1 da-R-EPOCH, dose level 2
- ___: C4D1 da-R-EPOCH, dose level 2
- ___: C5D1 da-R-EPOCH, dose level 2
- ___: C6D1 da-R-EPOCH, dose level 2

PAST MEDICAL HISTORY:
- HIV-dx in ___
- HTN
- HLD
- Depression
- Shingles
- Seasonal Allergies
- s/p tonsillectomy at age ___ 
 
Social History:
___
Family History:
Mother (d) ___- MI
Father (d) ___- aortic stenosis, COPD
PGM (d) 53 - Stomach CA
PGF (d) ___ - MI
2 Brothers with hemochromatosis
Another brother and 1 sister all alive and well.
No other known family history of blood cancers or blood 
disorders.
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
___ 1506 Temp: 97.4 PO BP: 126/86 HR: 78 RR: 18 O2 sat: 99%
O2 delivery: RA 
GENERAL:  Well-appearing, no acute distress.
NECK:  Soft and supple.
PSYCH:  A&O x3, full affect.
CARDIAC:  Regular rate and rhythm.  No murmurs, gallops, or 
rubs.
CHEST:  Clear to auscultation and percussion bilaterally.  No
wheezes, rales, or rhonchi.
ABDOMEN:  Soft, nontender, nondistended, no hepatosplenomegaly
palpated or percussed.  Positive bowel sounds.
BACK:  No spinal or CVA tenderness.
SKIN: No rashes notes
EXTREMITIES:  No ___ edema.
NEUROLOGIC:  Normal gait and stance, rises easily from chair.

DISCHARGE PHYSICAL EXAM:
___ 0441 Temp: 98.7 PO BP: 110/73 HR: 77 RR: 18 O2 sat: 94%
O2 delivery: Ra 
___ Total Intake: 3787ml PO Amt: 240ml IV Amt Infused:
3547ml 
___ Total Output: 3600ml Urine Amt: 3600ml 

SINCE MIDNIGHT: 400cc
EXAM:
GEN: well-appearing
HEENT: no erythema/mucositis/ petechiae
CHEST: no induration or erythema 
CV: RRR, S1S2 no murmurs
LUNGS: CTAB
ABD: soft NT ND
EXTREM: warm, well-perfused, no edema 
 
Pertinent Results:
ADMISSION LABS:

___ 12:49PM BLOOD WBC-4.1 RBC-3.52* Hgb-12.4* Hct-36.6* 
MCV-104* MCH-35.2* MCHC-33.9 RDW-12.2 RDWSD-46.9* Plt ___
___ 12:49PM BLOOD Neuts-69.2 Lymphs-18.5* Monos-8.0 Eos-3.6 
Baso-0.5 Im ___ AbsNeut-2.84 AbsLymp-0.76* AbsMono-0.33 
AbsEos-0.15 AbsBaso-0.02
___ 12:49PM BLOOD UreaN-11 Creat-1.1 Na-143 K-4.2 Cl-107 
HCO3-24 AnGap-12
___ 12:49PM BLOOD ALT-11 AST-16 LD(LDH)-170 AlkPhos-84 
TotBili-0.3
___ 12:49PM BLOOD Calcium-9.1

DISCHARGE LABS:

___ 01:19AM BLOOD WBC-4.9 RBC-3.14* Hgb-10.9* Hct-32.7* 
MCV-104* MCH-34.7* MCHC-33.3 RDW-12.1 RDWSD-46.4* Plt ___
___ 01:19AM BLOOD Neuts-80.3* Lymphs-10.8* Monos-5.7 
Eos-2.2 Baso-0.4 Im ___ AbsNeut-3.96 AbsLymp-0.53* 
AbsMono-0.28 AbsEos-0.11 AbsBaso-0.02
___ 01:19AM BLOOD Glucose-102* UreaN-5* Creat-0.9 Na-142 
K-3.9 Cl-101 HCO3-32 AnGap-9*
___ 01:19AM BLOOD ALT-50* AST-67* LD(LDH)-201 AlkPhos-72 
TotBili-0.5
___ 01:19AM BLOOD Albumin-3.7 Calcium-8.9 Phos-3.9 Mg-1.9
 
Brief Hospital Course:
Mr ___ is a ___ yo man with HIV, DLBCL (c/b large pleural
mass) currently C2D3 HD MTX 

# DLBCL- involvement of soft tissue, bones, nodes,
adrenal. PET scan after C6 EPOCH-R was ___ showed bone
remodeling, improved from prior, no concerning FDG avidity. 
___ 1. Per outpatient team plan for 2 doses of HD MTX.
Tolerating fine without any complications.
- HD-MTX for CNS ppx
- 24 hour MTX level cleared.  
Also will follow urine pH for alkalinization, goal >7.5.  
- will transition to PO leucovorin 
- hold Bactrim in setting of MTX 
- continue acyclovir ppx

#HIV, dx ___ CD4 92 on ___
- Continue dolutegravir and emtricitabine-tenofovir
- Saw by ID at start of chemotherapy, recommended against MAC
ppx even if CD4<50 as drop would likely be transitory in s/o
chemotherapy and expected to recover

#Chemotherapy induced anemia, at baseline, continue to monitor.
- Transfuse hgb <7

#Chemotherapy induced constipation
- Senna and Colace 

#Depression/anxiety: Continues to do well off wellbutrin.

#HTN: off Lisinopril for months, doing well.

FEN: Regular diet, replete lytes PRN
PPX: Enoxaparin
ACCESS: R POC
Emergency Contact: Partner ___ is HCP: ___. ___ is 
being
d/c from ___ today. 
Code Status: FULL CODE- confirmed.
DISPO: home
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q12H 
2. Cetirizine 10 mg PO DAILY:PRN allergies 
3. Dolutegravir 50 mg PO DAILY 
4. Emtricitabine-Tenofovir alafen (200mg-25mg) *DESCOVY* 1 TAB 
PO DAILY 
5. LORazepam 0.5-1 mg PO Q4H:PRN nausea anxiety insomnia 
6. Multivitamins W/minerals 1 TAB PO DAILY 
7. Ondansetron 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 
8. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 

 
Discharge Medications:
1.  Leucovorin Calcium 40 mg PO Q6H Duration: 2 Days 
Please make sure you drink plenty of fluids while taking 
leucovorin. 
RX *leucovorin calcium 10 mg 4 tablet(s) by mouth every six 
hours Disp #*28 Tablet Refills:*0 
2.  Acyclovir 400 mg PO Q12H  
3.  Cetirizine 10 mg PO DAILY:PRN allergies  
4.  Dolutegravir 50 mg PO DAILY  
5.  Emtricitabine-Tenofovir alafen (200mg-25mg) *DESCOVY* 1 TAB 
PO DAILY  
6.  LORazepam 0.5-1 mg PO Q4H:PRN nausea anxiety insomnia  
7.  Multivitamins W/minerals 1 TAB PO DAILY  
8.  Ondansetron 8 mg PO Q8H:PRN Nausea/Vomiting - First Line  
9.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
lymphoma 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to receive HD MTX. You tolerated this well and 
will be discharged home. You will follow up in the clinic as 
stated. It was a pleasure taking care of you.
 
Followup Instructions:
___